US04990512
A mixture of 3-cyano-5-trifluoromethylpyrdine-2-pyridone (250 mg), phosphorus pentachloride (550 mgs) and phosphonylchloride (0.62 ml) were heated at the reflux temperature for 8 hours. After cooling to ambient temperature (ca 28° C.) the reaction mixture was poured into ice/water and rigourously extracted with ethylacetate. The combined organic layers were washed with aqueous sodium bicarbonate solution followed by brine, and finally dried over anhydrous magnesium sulphate. Removal of the solvent by evaporation under reduced pressure gave 2-chloro-3-cyano-5trifluoromethyl-pyridine as an off-white solid which was used without further purification. The compound showed (CDC13) 8.89 (1H,d) 8.28 (1H,d).

reactant | 3-cyano-5-trifluoromethylpyrdine 2-pyridone | 250 mg | C(#N)C=1C=NC=C(C1)C(F)(F)F.N1C(C=CC=C1)=O
reactant | phosphorus pentachloride | 550 mgs | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 2-chloro-3-cyano-5trifluoromethyl-pyridine | ClC1=NC=C(C=C1C#N)C(F)(F)F | C7H2ClF3N2
